2180-01-29 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Overnight received 3 doses of 10mg valium
   - Agitated, getting out of bed
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-29**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 78 (75 - 110) bpm
   BP: 135/101(105) {125/65(81) - 151/101(105)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,287 mL
                                                                  1,053 mL
   PO:
             TF:
   IVF:
                                                                  1,287 mL
                                                                  1,053 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                  2,190 mL
   Urine:
                                                                    920 mL
                                                                  2,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    367 mL
                                                                 -1,137 mL
   Respiratory support
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Bowel sounds present, Tender: epigastric, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   72 K/uL
   12.9 g/dL
   137 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   5 mg/dL
   98 mEq/L
   133 mEq/L
   38.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
   WBC
   4.3
   4.6
   Hct
   36.4
   38.2
   Plt
   68
   72
   Cr
   0.7
   0.6
   Glucose
   171
   137
   Other labs: PT / PTT / INR:12.4/32.3/1.0, ALT / AST:106/272, Alk Phos /
   T Bili:180/2.9, Amylase / Lipase:89/447, Differential-Neuts:74.6 %,
   Lymph:17.7 %, Mono:6.5 %, Eos:0.6 %, Albumin:2.9 g/dL, LDH:357 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   59 year old man with past medical history significant for diabetes,
   hypertension, EtOH abuse, presenting with abdominal pain and EtOH
   withdrawal, found to have pancreatitis.
   .
   # PANCREATITIS: DDx includes gall stone impaction,
   hypertriglyceridemia, medication, etc. Given history of alcohol abuse
   however, this most likely represents alcoholic pancreatitis. [**Last Name (un) 2245**]
   Criteria Score = [**2-24**] (15% predicted mortality) (Age > 55, Glucose >
   200, AST > 250)
   - Agressive volume resuscitation, 1L LR on arrival
   - Monitor Hct, BUN, Calcium, PaO2, base deficit and fluid sequestration
   for 48hr prognostication
   - NPO
   - Currently altered and without vomiting, would avoid NGT in this
   setting.
   - f/u surgery recs
   .
   # ETOH ABUSE: Patient with 10drink /day habit, although this could be
   significantly underestimated given wife is not home most of the day.
   Patient exhibiting severe withdrawal symptoms on arrival. Per wife's
   history, patient having memory problems and some confabulations,
   concerning for Warnicke/Korsakoff syndrome.
   -- CIWA Q1H Diazepam 10mg
   -- Withdrawal precautions
   -- Thiamine, Folate
   -- Social work consult
   -- Consider psych consult for worsening depression
   -- GUAIAC all Stools
   .
   #. EtOH Hepatitis: Pt with ALT 106 and AST 272. No focal lesions or
   change in echotexture on U/S.
   - trend LFT
   - hepatitis serologies
   - EtOH abuse plan as above
   # DIABETES: Per pharmacy patient not on any antiglycemics, pts wife
   believes he has been on metformin in the past.
   -- insulin sliding scale
   -- A1C
   .
   #. THROMBOCYTOPENIA / LEUKOPENIA: Likely from bone marrow suppression
   -- Continue to monitor
   .
   # HYPERTENSION: Patient only on lisinopril as outpatient, given
   pancreatitis will hold for now
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [ ] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-01-29 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mr [**Known lastname **] is a 59 year old man with past medical history significant for
   diabetes, hypertension, EtOH abuse, presenting with acute abdominal
   pain, nausea, vomiting, and diarrhea for the past day.
   .
   Patient is very confused at time of interview and history is obtained
   from the wife. She reports patient has developed a 10 beer per day
   drinking habit for the past 2 years. She also reports he has been layed
   off last [**Month (only) 51**] and since has stayed home all day. For the past 2 weeks,
   she states patient has had very poor PO intake, and one day prior to
   admission started vomiting. On the day of admission, she reports
   patient was very anxious, agitated and tremulous. Patient is able to
   confirm he has been having vomiting and has not been able to drink in
   the past two days.
   .
   They deny any fevers, chills, chest pain, shortness of breath or other
   associated symptoms. Vomitus is described and clear and without blood
   or dark contents. Pts wife did however report he has been having some
   memory problems, making up stories about family members (talking about
   recently seeing deceased relatives) and has been having worsening
   balance stumbling although not falling.
   .
   .
   In the ED, vital signs were initially:  Pain [**4-1**] T 99.0 104 153/92 16
   100%. Patient received Thiamine, Folic Acid, multivitamin and 10mg
   Diazepam along with 3L NS and 1 multivitamin bag. Chest x-ray revealed
   no acute process. Lipase and amylase were found to be elevated, surgery
   was consulted and felt patient could be monitored closely on medical
   service. Given high risk of withdrawal, patient was admitted to MICU.
   .
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-29**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 78 (75 - 110) bpm
   BP: 135/101(105) {125/65(81) - 151/101(105)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,287 mL
                                                                  1,058 mL
   PO:
             TF:
   IVF:
                                                                  1,287 mL
                                                                  1,058 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                  2,190 mL
   Urine:
                                                                    920 mL
                                                                  2,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    367 mL
                                                                 -1,132 mL
   Respiratory support
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.9 g/dL
   72 K/uL
   137 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   5 mg/dL
   98 mEq/L
   133 mEq/L
   38.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
   WBC
   4.3
   4.6
   Hct
   36.4
   38.2
   Plt
   68
   72
   Cr
   0.7
   0.6
   Glucose
   171
   137
   Other labs: PT / PTT / INR:12.4/32.3/1.0, ALT / AST:106/272, Alk Phos /
   T Bili:180/2.9, Amylase / Lipase:89/447, Differential-Neuts:74.6 %,
   Lymph:17.7 %, Mono:6.5 %, Eos:0.6 %, Albumin:2.9 g/dL, LDH:357 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   59 year old man with past medical history significant for diabetes,
   hypertension, EtOH abuse, presenting with abdominal pain and EtOH
   withdrawal, found to have pancreatitis.
   .
   # PANCREATITIS: DDx includes gall stone impaction,
   hypertriglyceridemia, medication, etc. Given history of alcohol abuse
   however, this most likely represents alcoholic pancreatitis. [**Last Name (un) 2245**]
   Criteria Score = [**2-24**] (15% predicted mortality) (Age > 55, Glucose >
   200, AST > 250)
   - Agressive volume resuscitation, 1L LR on arrival
   - Monitor Hct, BUN, Calcium, PaO2, base deficit and fluid sequestration
   for 48hr prognostication
   - NPO
   - Currently altered and without vomiting, would avoid NGT in this
   setting.
   .
   # ETOH ABUSE: Patient with 10drink /day habit, although this could be
   significantly underestimated given wife is not home most of the day.
   Patient exhibiting severe withdrawal symptoms on arrival. Per wife's
   history, patient having memory problems and some confabulations,
   concerning for Warnicke/Korsakoff syndrome.
   -- CIWA Q1H Diazepam 10mg
   -- Withdrawal precautions
   -- Thiamine, Folate
   -- Social work consult
   -- GUAIAC all Stools
   .
   # DIABETES: Per pharmacy patient not on any antiglycemics, pts wife
   believes he has been on metformin in the past.
   -- insulin sliding scale
   -- A1C
   .
   #. THROMBOCYTOPENIA / LEUKOPENIA: Likely from bone marrow suppression
   -- Continue to monitor
   .
   # HYPERTENSION: Patient only on lisinopril as outpatient, given
   pancreatitis will hold for now
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:
   # DISPOSITION:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2180-01-30 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- surgery no new recs, signed off
   -- updated family
   Home Meds:
   Metformin 500mg [**Hospital1 7**]
   Glyburide 7.5mg daily
   Lisinopril 5mg daily
   -- PM labs repleted lytes and otherwise stable
   -- last valium at 3am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-30**] 03:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-30**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 84 (72 - 105) bpm
   BP: 137/81(95) {115/69(84) - 160/92(107)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,413 mL
                                                                  1,121 mL
   PO:
             TF:
   IVF:
                                                                  3,413 mL
                                                                  1,121 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,300 mL
   Urine:
                                                                  4,310 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Periphral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Bowel sounds present, Tender: epigastric, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   71 K/uL
   12.6 g/dL
   105 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.2 mEq/L
   5 mg/dL
   97 mEq/L
   134 mEq/L
   36.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
                             [**2180-1-29**]  05:05 PM
                             [**2180-1-30**]  04:06 AM
   WBC
   4.3
   4.6
   4.1
   4.2
   Hct
   36.4
   38.2
   37.0
   36.7
   Plt
   68
   72
   66
   71
   Cr
   0.7
   0.6
   0.6
   0.6
   Glucose
   171
   137
   103
   105
   Other labs: PT / PTT / INR:12.4/32.3/1.0, ALT / AST:118/275, Alk Phos /
   T Bili:195/3.2, Amylase / Lipase:86/368, Differential-Neuts:74.2 %,
   Lymph:17.2 %, Mono:6.6 %, Eos:1.3 %, Albumin:2.8 g/dL, LDH:372 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE
 POISONING, ALCOHOL (ETOH, ALCOHOL INTOXICATION)
   59 year old man with past medical history significant for diabetes,
   hypertension, EtOH abuse, presenting with abdominal pain and EtOH
   withdrawal, found to have pancreatitis.
   .
   # PANCREATITIS: DDx includes gall stone impaction,
   hypertriglyceridemia, medication, etc. Given history of alcohol abuse
   however, this most likely represents alcoholic pancreatitis. [**Last Name (un) 2245**]
   Criteria Score = [**2-24**] (15% predicted mortality) (Age > 55, Glucose >
   200, AST > 250)
   - Agressive volume resuscitation, 1L LR on arrival
   - Monitor Hct, BUN, Calcium, PaO2, base deficit and fluid sequestration
   for 48hr prognostication
   - NPO
   - Currently altered and without vomiting, would avoid NGT in this
   setting.
   - f/u surgery recs
   .
   # ETOH ABUSE: Patient with 10drink /day habit, although this could be
   significantly underestimated given wife is not home most of the day.
   Patient exhibiting severe withdrawal symptoms on arrival. Per wife's
   history, patient having memory problems and some confabulations,
   concerning for Warnicke/Korsakoff syndrome.
   -- CIWA Q1H Diazepam 10mg
   -- Withdrawal precautions
   -- Thiamine, Folate
   -- Social work consult
   -- Consider psych consult for worsening depression
   -- GUAIAC all Stools
   .
   #. EtOH Hepatitis: Pt with ALT 106 and AST 272. No focal lesions or
   change in echotexture on U/S.
   - trend LFT
   - hepatitis serologies
   - EtOH abuse plan as above
   # DIABETES: Per pharmacy patient not on any antiglycemics, pts wife
   believes he has been on metformin in the past.
   -- insulin sliding scale
   -- A1C
   .
   #. THROMBOCYTOPENIA / LEUKOPENIA: Likely from bone marrow suppression
   -- Continue to monitor
   .
   # HYPERTENSION: Patient only on lisinopril as outpatient, given
   pancreatitis will hold for now
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [ ] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2180-01-30 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mr [**Known lastname **] is a 59 year old man with past medical history significant for
   diabetes, hypertension, EtOH abuse, presenting with acute abdominal
   pain, nausea, vomiting, and diarrhea for the past day, admitted with
   pancreatitis
   In the ED, vital signs were initially:  Pain [**4-1**] T 99.0 104 153/92 16
   100%. Patient received Thiamine, Folic Acid, multivitamin and 10mg
   Diazepam along with 3L NS and 1 multivitamin bag. Chest x-ray revealed
   no acute process. Lipase and amylase were found to be elevated, surgery
   was consulted and felt patient could be monitored closely on medical
   service. Given high risk of withdrawal, patient was admitted to MICU.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-30**] 03:04 AM
   Colace
   RISS
   Erythromycin ophthalmic
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-30**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 84 (72 - 105) bpm
   BP: 137/81(95) {115/69(84) - 160/92(107)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,413 mL
                                                                  1,227 mL
   PO:
             TF:
   IVF:
                                                                  3,413 mL
                                                                  1,227 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,300 mL
   Urine:
                                                                  4,310 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   71 K/uL
   105 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.2 mEq/L
   5 mg/dL
   97 mEq/L
   134 mEq/L
   36.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
                             [**2180-1-29**]  05:05 PM
                             [**2180-1-30**]  04:06 AM
   WBC
   4.3
   4.6
   4.1
   4.2
   Hct
   36.4
   38.2
   37.0
   36.7
   Plt
   68
   72
   66
   71
   Cr
   0.7
   0.6
   0.6
   0.6
   Glucose
   171
   137
   103
   105
   Other labs: PT / PTT / INR:12.4/32.3/1.0, ALT / AST:118/275, Alk Phos /
   T [**Year (4 digits) **]:195/3.2, Amylase / Lipase:86/368, Differential-Neuts:74.2 %,
   Lymph:17.2 %, Mono:6.6 %, Eos:1.3 %, Albumin:2.8 g/dL, LDH:372 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   59 year old man with past medical history significant for diabetes,
   hypertension, EtOH abuse, presenting with abdominal pain and EtOH
   withdrawal, found to have pancreatitis.
   .
   # PANCREATITIS: DDx includes gall stone impaction,
   hypertriglyceridemia, medication, etc. Given history of alcohol abuse
   however, this most likely represents alcoholic pancreatitis. [**Last Name (un) 2245**]
   Criteria Score = [**2-24**] (15% predicted mortality) (Age > 55, Glucose >
   200, AST > 250)
   - Agressive volume resuscitation, keeping UOP >75/hr for now
   - Monitor Hct, BUN, Calcium, PaO2, base deficit and fluid sequestration
   for 48hr prognostication
   - NPO
   -CT if fevers or climbing WBC, otherwise not needed
   -[**Last Name (LF) **], [**First Name3 (LF) **]/lipase trending down slightly
   -may need RUQ US to eval gallbladder if [**First Name3 (LF) **] does not continue to trend
   down
   # ETOH ABUSE: Patient with 10drink /day habit, although this could be
   significantly underestimated given wife is not home most of the day.
   Patient exhibiting severe withdrawal symptoms on arrival. Per wife's
   history, patient having memory problems and some confabulations,
   concerning for Warnicke/Korsakoff syndrome.
   -- CIWA Q1H Diazepam 10mg
   -- Withdrawal precautions
   -- Thiamine, Folate, MVI
   -- Social work consult
   -- GUAIAC all Stools
   .
   # DIABETES: Per pharmacy patient not on any antiglycemics, pts wife
   believes he has been on metformin in the past.
   -- insulin sliding scale
   -- A1C
   .
   #. THROMBOCYTOPENIA / LEUKOPENIA: Likely from bone marrow suppression
   from etoh
   -- Continue to monitor
   .
   # HYPERTENSION: Patient only on lisinopril as outpatient, given
   pancreatitis will hold for now. Restart tomorrow if BP and renal
   function stable
   #alcoholic hepatitis: trend transaminases.  Follow up viral hepatitis
   serologies to rule out alternative causes
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, pneumoboots, bowel regimen . No sc heparin due to
   thrombocytopenia
   # ACCESS: PIV
   # CODE:  Full, discussed
   # DISPOSITION:  ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2180-1-28**] 09:21 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:
   Code status: Full code
   Disposition :
   Total time spent: 35 min

2180-01-31 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FALL - At [**2180-1-30**] 04:32 PM
   Witnessed fall, patient fell out of bed, did not hit his head.  Fell
   onto his knees.  Has a scrape on his right knee.
   -Continues to be agitated; required valium q2 overnight and zyprexa
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-31**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 80 (75 - 105) bpm
   BP: 134/83(97) {120/68(78) - 157/101(115)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,576 mL
                                                                    221 mL
   PO:
             TF:
   IVF:
                                                                  2,576 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                    920 mL
   Urine:
                                                                  3,460 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                   -699 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   13.0 g/dL
   90 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   6 mg/dL
   96 mEq/L
   133 mEq/L
   38.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
                             [**2180-1-29**]  05:05 PM
                             [**2180-1-30**]  04:06 AM
                             [**2180-1-30**]  04:59 PM
                             [**2180-1-31**]  03:41 AM
   WBC
   4.3
   4.6
   4.1
   4.2
   4.2
   Hct
   36.4
   38.2
   37.0
   36.7
   38.3
   Plt
   68
   72
   66
   71
   84
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   171
   137
   103
   105
   82
   90
   Other labs: PT / PTT / INR:12.4/32.3/1.0, ALT / AST:115/188, Alk Phos /
   T Bili:218/2.9, Amylase / Lipase:74/211, Differential-Neuts:70.2 %,
   Lymph:19.6 %, Mono:7.8 %, Eos:1.4 %, Albumin:2.8 g/dL, LDH:318 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   59 year old man with past medical history significant for diabetes,
   hypertension, EtOH abuse, presenting with abdominal pain and EtOH
   withdrawal, found to have pancreatitis.
   .
   # PANCREATITIS: DDx includes gall stone impaction,
   hypertriglyceridemia, medication, etc. Given history of alcohol abuse
   however, this most likely represents alcoholic pancreatitis. [**Last Name (un) 2245**]
   Criteria Score = [**2-24**] (15% predicted mortality) (Age > 55, Glucose >
   200, AST > 250).  Surgery has evaluated pt, now signed off.  LFTs
   trending down.
   - Continue aggressive IVF
   - Advance diet as tolerated once more awake
   - Start morphine prn pain
   .
   # ETOH ABUSE: Patient with 10drink /day habit, although this could be
   significantly underestimated given wife is not home most of the day.
   Patient exhibiting severe withdrawal symptoms on arrival. Per wife's
   history, patient having memory problems and some confabulations,
   concerning for Warnicke/Korsakoff syndrome.  Last valium given at 3am
   this AM.
   -- CIWA Q2H Diazepam 10mg
   -- Withdrawal precautions
   -- Thiamine, Folate
   -- Social work consult, consider psych consult
   -- Check lytes 5pm
   .
   #. EtOH Hepatitis: Pt with ALT 106 and AST 272. No focal lesions or
   change in echotexture on U/S or CT
   - trend LFTs daily
   - hepatitis serologies pending
   - EtOH abuse plan as above
   # DIABETES: Pt is on metformin (500 [**Hospital1 7**]) /glyburide (7.5QD) at home
   -- insulin sliding scale for now
   -- A1C pending
   .
   #. THROMBOCYTOPENIA / LEUKOPENIA: Likely from bone marrow suppression;
   no signs of active bleeding
   -- Continue to monitor
   .
   # HYPERTENSION: Patient only on lisinopril as outpatient, normotensive
   since arrival
   -Restart if BP requires
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:
   # DISPOSITION:  Floor if stable today
 PANCREATITIS, ACUTE
 POISONING, ALCOHOL (ETOH, ALCOHOL INTOXICATION)
   ICU Care
   Nutrition: NPO, IVF
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:21 PM
   20 Gauge - [**2180-1-30**] 12:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-01-31 10:56:00 Physician Attending Progress Note
Chief Complaint: EtOH w/d and pancreatitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 FALL - At [**2180-1-30**] 04:32 PM
   Witnessed fall, patient fell out of bed, did not hit his head.  Fell
   onto his knees.  Has a scrape on his right knee.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-31**] 04:00 AM
   Other medications:
   colace, insulin sliding scale, erythromycin, valium iv 50mg yesterday,
   zyprexa 5mg x1, morphine prn, pneumoboots.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-31**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 80 (77 - 105) bpm
   BP: 138/83(98) {120/68(78) - 157/101(115)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,576 mL
                                                                    271 mL
   PO:
             TF:
   IVF:
                                                                  2,576 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                  1,060 mL
   Urine:
                                                                  3,460 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                   -789 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, calm, sleepy but
   easy to arouse.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   84 K/uL
   90 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   6 mg/dL
   96 mEq/L
   133 mEq/L
   38.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
                             [**2180-1-29**]  05:05 PM
                             [**2180-1-30**]  04:06 AM
                             [**2180-1-30**]  04:59 PM
                             [**2180-1-31**]  03:41 AM
   WBC
   4.3
   4.6
   4.1
   4.2
   4.2
   Hct
   36.4
   38.2
   37.0
   36.7
   38.3
   Plt
   68
   72
   66
   71
   84
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   171
   137
   103
   105
   82
   90
   Other labs: PT / PTT / INR:12.4/32.3/1.0, ALT / AST:115/188, Alk Phos /
   T Bili:218/2.9, Amylase / Lipase:74/211, Differential-Neuts:70.2 %,
   Lymph:19.6 %, Mono:7.8 %, Eos:1.4 %, Albumin:2.8 g/dL, LDH:318 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR none
   Microbiology: none
   Assessment and Plan
 PANCREATITIS, ACUTE: likely [**1-25**] to EtOH. start clears when more
   awake. Amylase and lipase decreased. abdomen soft and non tender.
 POISONING, ALCOHOL (ETOH, ALCOHOL INTOXICATION)/withdrawal: continue
   CIWA, Valium requirement decreased overall. Continue to monitor on
   q2hour CIWA for now, given need for q2hr dosing of valium before  4am.
 DM: sugars in the 90s.. continues RISS.
Coping: will consult social work re recent job loss.
Thrombocytopenia: likely [**1-25**] to EtOH.
Hypokalemia: replete with iv potassium
   can callout if stable this pm.
   ICU Care
   Nutrition: NPO for now if more awake will start clears.
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:21 PM
   20 Gauge - [**2180-1-30**] 12:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2180-02-01 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Minimal agitation, tries to get out of bed
   - called PCP, [**Name10 (NameIs) **] call back in AM (Dr [**First Name (STitle) **] [**Telephone/Fax (1) 13155**])
   - UA with gross blood and urobilinogen, will d/c foley in am
   -30mg valium 3mg haldol since yesterday AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-31**] 05:54 PM
   Haloperidol (Haldol) - [**2180-1-31**] 06:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-2-1**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.5
   HR: 79 (75 - 98) bpm
   BP: 153/93(107) {125/58(82) - 172/98(118)} mmHg
   RR: 10 (10 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    990 mL
                                                                     78 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    930 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    325 mL
   Urine:
                                                                  1,700 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                   -247 mL
   Respiratory support
   SpO2: 97%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   13.7 g/dL
   90 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   6 mg/dL
   96 mEq/L
   133 mEq/L
   40.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
                             [**2180-1-29**]  05:05 PM
                             [**2180-1-30**]  04:06 AM
                             [**2180-1-30**]  04:59 PM
                             [**2180-1-31**]  03:41 AM
                             [**2180-2-1**]  05:07 AM
   WBC
   4.3
   4.6
   4.1
   4.2
   4.2
   5.0
   Hct
   36.4
   38.2
   37.0
   36.7
   38.3
   40.2
   Plt
   68
   72
   66
   71
   84
   102
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   171
   137
   103
   105
   82
   90
   Other labs: PT / PTT / INR:11.7/27.7/1.0, CK / CKMB / Troponin-T:125//,
   ALT / AST:115/188, Alk Phos / T Bili:218/2.9, Amylase / Lipase:74/211,
   Differential-Neuts:70.2 %, Lymph:19.6 %, Mono:7.8 %, Eos:1.4 %,
   Albumin:2.8 g/dL, LDH:318 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   59 year old man with past medical history significant for diabetes,
   hypertension, EtOH abuse, presenting with abdominal pain and EtOH
   withdrawal, found to have pancreatitis.
   .
   # ETOH ABUSE: Patient with 10drink /day habit, although this could be
   significantly underestimated given wife is not home most of the day.
   Patient exhibiting severe withdrawal symptoms on arrival. Per wife's
   history, patient having memory problems and some confabulations,
   concerning for Warnicke/Korsakoff syndrome.  Last valium given at 3am
   this AM.
   -- CIWA Q4H Diazepam 10mg, now only requiring 3 doses
   -- Withdrawal precautions
   -- Thiamine, Folate PO
   -- Social work consult, consider psych consult
   -- Check lytes 5pm
   # PANCREATITIS: Significantly improved, now with active bowel sounds /
   benign abdomen and tolerating a regular diet.
   DDx included gall stone impaction, hypertriglyceridemia, medication,
   etc. Given history of alcohol abuse however, this most likely
   represented alcoholic pancreatitis. [**Last Name (un) 2245**] Criteria Score = [**2-24**] (15%
   predicted mortality) on admission (Age > 55, Glucose > 200, AST >
   250).  Surgery has evaluated pt, now signed off.  LFTs trending down.
   .
   #. EtOH Hepatitis: Pt with ALT 106 and AST 272. No focal lesions or
   change in echotexture on U/S or CT
   - trend LFTs daily
   - hepatitis serologies pending
   - EtOH abuse plan as above
   # DIABETES: Pt is on metformin (500 [**Hospital1 7**]) /glyburide (7.5QD) at home
   -- insulin sliding scale for now
   -- A1C 9.6
   .
   #. THROMBOCYTOPENIA / LEUKOPENIA: Likely from bone marrow suppression;
   no signs of active bleeding
   -- Continue to monitor
   .
   # HYPERTENSION: Patient only on lisinopril as outpatient, normotensive
   since arrival
   - Restart if BP requires
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:
   # DISPOSITION:  Floor
 PANCREATITIS, ACUTE
 POISONING, ALCOHOL (ETOH, ALCOHOL INTOXICATION)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:21 PM
   20 Gauge - [**2180-1-30**] 12:09 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-02-01 10:27:00 Physician Attending Progress Note
Chief Complaint: Alcohol w/d, agitation.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Valium 30 and haldol 3mg over past 24hour.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-1-31**] 05:54 PM
   Haloperidol (Haldol) - [**2180-1-31**] 06:10 PM
   Other medications:
   RISS no coverage needed, zyprexa, morphine prn, haldol 1mg x1.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-2-1**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.7
   HR: 77 (75 - 98) bpm
   BP: 124/73(87) {124/58(82) - 172/98(118)} mmHg
   RR: 10 (10 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    990 mL
                                                                     81 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    930 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    595 mL
   Urine:
                                                                  1,700 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                   -514 mL
   Respiratory support
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   tremulous
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.7 g/dL
   102 K/uL
   100 mg/dL
   0.7 mg/dL
   21 mEq/L
   5.1 mEq/L
   7 mg/dL
   99 mEq/L
   133 mEq/L
   40.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2180-1-28**]  08:52 PM
                             [**2180-1-29**]  04:56 AM
                             [**2180-1-29**]  05:05 PM
                             [**2180-1-30**]  04:06 AM
                             [**2180-1-30**]  04:59 PM
                             [**2180-1-31**]  03:41 AM
                             [**2180-2-1**]  05:07 AM
   WBC
   4.3
   4.6
   4.1
   4.2
   4.2
   5.0
   Hct
   36.4
   38.2
   37.0
   36.7
   38.3
   40.2
   Plt
   68
   72
   66
   71
   84
   102
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   0.7
   Glucose
   171
   137
   103
   105
   82
   90
   100
   Other labs: PT / PTT / INR:11.7/27.7/1.0, CK / CKMB / Troponin-T:125//,
   ALT / AST:115/188, Alk Phos / T Bili:218/2.9, Amylase / Lipase:74/211,
   Differential-Neuts:70.2 %, Lymph:19.6 %, Mono:7.8 %, Eos:1.4 %,
   Albumin:2.8 g/dL, LDH:318 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Imaging: none
   Assessment and Plan
 Acute pancreatitis: tolerating clears, abdominal pain resolved. Will
   advance diet as tolerated.
 Alcohol intoxication and withdrawal: decrease frequency of CIWA
   checks to q4. continue po thiamine, folate, MVI.
 Hepatitis: follow up HCV.
 Sinus tachycardia: unclear cause (volume depletion +/- withdrawal
   most likely). Will bolus and give maint IVF, analgesics prn
 Diabetes: monitor sugars now that he's started eating
 HTN: resume home lisinopril.
 Coping: follow up social work consult. Will probably consult psych
   for ? depression on the floor.
 Elevated hct: likley [**Last Name (LF) 6052**], [**First Name3 (LF) **] give IVF 1L x1, and
   encourage po.
   ICU Care
   Nutrition:
   Comments: aspiration precautions.
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-1-28**] 09:21 PM
   20 Gauge - [**2180-1-30**] 12:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor, telemetry
   Total time spent: 35 minutes